US04721791
A mixture of 2-chloro-5-methylbenzonitrile (10.6 g, 69.9 mmol), N-bromosuccinimide (12.2 g, 68.5 mmol), and dibenzoyl peroxide (349 mg, 1.44 mmol) in benzene (350 ml) was refluxed 1.5 hours, cooled, and evaporated to dryness under vacuum. The residue was suspended in 7:3 (v/v) hexane-dichloromethane, filtered, and evaporated. The crude product was chromatographed on silica gel (650 g) eluted with 7:3 (v/v) hexane-dichloromethane to provide 4.8 g (30%) 4-chloro-3-cyanobenzyl bromide, m.p. 55°-58° C.

reactant | 2-chloro-5-methylbenzonitrile | 69.9 mmol, 10.6 g | ClC1=C(C#N)C=C(C=C1)C | C8H6ClN
reactant | N-bromosuccinimide | 68.5 mmol, 12.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | benzene | 350 ml | C1=CC=CC=C1 | C6H6
catalyst | dibenzoyl peroxide | 1.44 mmol, 349 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-chloro-3-cyanobenzyl bromide | 4.8 g, 30% | ClC1=C(C=C(CBr)C=C1)C#N | C8H5BrClN
